US06498164B1
Heated was a mixture of N,N′-dibenzylurea 12.02 g (50.0 mmol) and malonic acid 5.20 g (50.0 mmol) in acetic anhydride 50.0 mL (530 mmol, 10.6 equivalents) at 70° C.-75° C. for 14 hours under a nitrogen atmosphere. Then, removed were the volatile materials under the reduced pressure and distributed the residue between layers of 2 M sodium hydroxide 250 mL and ether 200 mL. Separated was the alkaline aqueous layer and after washing with ether, neutralized with concentrated hydrochloric acid under cooling in ice-water bath (pH 2-3). Extracted was the neutrallized aqueous solution with chloroform, washed with water, and dried over sodium sulfate. Removal of the solvent under reduced pressure gave 1,3-dibenzylbarbituric acid 14.7 g as pale yellow crystalline powder (95.6% yield).

reactant | N,N′-dibenzylurea | 50.0 mmol, 12.02 g | C(C1=CC=CC=C1)NC(=O)NCC1=CC=CC=C1 | C15H16N2O
reactant | malonic acid | 50.0 mmol, 5.20 g | C(CC(=O)O)(=O)O | C3H4O4
reactant | acetic anhydride | 530 mmol, 50.0 mL, 10.6 equivalents | C(C)(=O)OC(C)=O | C4H6O3
product | 1,3-dibenzylbarbituric acid | 14.7 g, 95.6% yield | C(C1=CC=CC=C1)N1C(=O)N(C(=O)CC1=O)CC1=CC=CC=C1 | C18H16N2O3
